US05916786
The hydrazide of (R)-2-phenyl-4-hydroxybutanoic acid (0.5 gram) is reacted with a solution of 0.5 grams of sodium nitrite in 10 ml of 5% H2SO4. The reaction mixture is maintained for 1 hour at 0-5° C, followed extraction of the reaction mixture with ethyl acetate, followed by basification of the resulting aqueous solution with NaOH, extraction with methyl t-butyl ether, drying of the extracts over MgSO4, filtration, and the removal of solvent by rotary evaporation. The product (R)-1-phenyl-3-hydroxypropylamine is isolated as a light yellow oil.

reactant | (R)-2-phenyl-4-hydroxybutanoic acid | 0.5 gram | C1(=CC=CC=C1)[C@H](C(=O)O)CCO | C10H12O3
reactant | sodium nitrite | 0.5 grams | N(=O)[O-].[Na+]
solvent | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
product | (R)-1-phenyl-3-hydroxypropylamine | C1(=CC=CC=C1)[C@@H](CCO)N | C9H13NO
